US04668698
A solution of 3-formylphenoxyacetic acid (5.Og.) in ethanol (50 ml.) was added to a suspension of sodium borohydride (2.11 g.) in ethanol (100 ml.) with stirring. After 2 hours the reaction was quenched with acetic acid (20%, 50 ml.) and the bulk of the solvent was evaporated. Water (50 ml.) was added and the aqueous mixture was extracted with ethyl acetate (2×100 ml.). The combined extracts were washed with saturated brine (100 ml.), dried (MgSO4) and evaporated to give 3-(hydroxymethyl)phenoxyacetic acid (4.66 g.) as an off white solid, NMR: 4.5(2H,s), 4.65 (2H,s) and 6.6-7.4 (4H,m)ppm, which was used without further purification.

reactant | 3-formylphenoxyacetic acid | C(=O)C=1C=C(OCC(=O)O)C=CC1 | C9H8O4
reactant | sodium borohydride | 2.11 g | [BH4-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 3-(hydroxymethyl)phenoxyacetic acid | 4.66 g | OCC=1C=C(OCC(=O)O)C=CC1 | C9H10O4
